US08222245B2
7-Iodo-2,3,4,5-tetrahydro-1H-2-benzazepin-1-one
7-Amino-2,3,4,5-tetrahydro-1H-2-benzazepin-1-one (may be prepared as described in: Preparation of benzazepinylpyrrolidonylsulfonamides as Factor Xa inhibitors; WO2007059952) (500 mg, 2.84 mmol) and triiodomethane (2234 mg, 5.67 mmol) were dissolved in THF (100 ml). Then 1,1-dimethylethyl nitrite (0.675 ml, 5.67 mmol) dissolved in THF (20 ml) was added drop-wise over 20 minutes and the resultant solution stirred for 1 hour. The mixture was heated at 50° C. for 30 minutes. Most of the solvent was removed by evaporation and the crude subjected to biotage chromatography (EtOAc/hexane 3:1) to yield the title compound (550 mg) as a pale yellow solid. MS (ES) C10H10INO requires 287: found 287.8 (M+H)+.

reactant | 7-Amino-2,3,4,5-tetrahydro-1H-2-benzazepin-1-one | 2.84 mmol, 500 mg | NC=1C=CC2=C(CCCNC2=O)C1 | C10H12N2O
reactant | triiodomethane | 5.67 mmol, 2234 mg | IC(I)I | CHI3
reactant | 1,1-dimethylethyl nitrite | 5.67 mmol, 0.675 ml | N(=O)OC(C)(C)C | C4H9NO2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 7-Iodo-2,3,4,5-tetrahydro-1H-2-benzazepin-1-one | 550 mg | IC=1C=CC2=C(CCCNC2=O)C1 | C10H10INO
